US06248766B1
[(2-Benzylthio-4,5-dihydronaphtho[1,2-d]thiazol-6-yl)oxy]acetic Acid
Using ethyl[(2-mercapto-4,5-dihydronaphtho[1,2-d]thiazol-6-yl)oxy]acetate and benzyl bromide, the procedure of Example 1 was otherwise repeated to synthesize the title compound. Yield 44%.

reactant | ethyl[(2-mercapto-4,5-dihydronaphtho[1,2-d]thiazol-6-yl)oxy]acetate | C(C)OC(COC1=C2CCC3=C(N=C(S3)S)C2=CC=C1)=O | C15H15NO3S2
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | [(2-Benzylthio-4,5-dihydronaphtho[1,2-d]thiazol-6-yl)oxy]acetic Acid | Yield 44% | C(C1=CC=CC=C1)SC=1SC2=C(N1)C1=CC=CC(=C1CC2)OCC(=O)O | C20H17NO3S2
